US04532250
4-Propionylpyridine (1)
To a solution of 2.845M ethylmagnesium bromide (263 mL, 0.75 mol) in ethyl ether (Et2O) (250 mL) was slowly added a solution of 4-cyanopyridine (39 g, 0.375 mol) in Et2O (750 mL). The reaction mixture was warmed at reflux for 12 hours, treated with concentrated H2SO4 (125 mL)/H2O (125 mL), and then washed three times with Et2O (250 mL). The aqueous portion was made basic (pH 9) with 15% NaOH solution and extracted five times with 250 mL portions of Et2O. The combined Et2O extracts were dried (MgSO4), and the solvent was removed under reduced pressure to afford a brown oil (48.4 g, 95%). Purification by vacuum distillation at 93°-97° (2.6 mm) afforded product as a pale yellow oil (25.35 g, 50%), NMR (CDCl3) δ 1.23 (t, 3H, J= 7 Hz), 3.00 (q, 2H, J=7 Hz), 7.70 (d, 2H, J=6 Hz), and 8.78 (d, 2H, J=6 Hz); IR (film) 1695 cm-1.

reactant | ethylmagnesium bromide | 0.75 mol, 2.845M, 263 mL | C(C)[Mg]Br
reactant | 4-cyanopyridine | 0.375 mol, 39 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | H2SO4 | 125 mL | OS(=O)(=O)O | H2O4S
reactant | H2O | 125 mL | O | H2O
solvent | ethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | Et2O | 750 mL | CCOCC | C4H10O
product | 4-Propionylpyridine | 48.4 g, 95% | C(CC)(=O)C1=CC=NC=C1 | C8H9NO
